US04247548
4-Chloro-3-hydroxy-5-methylisoxazole was reacted with benzenesulphonyl chloride in the presence of triethylamine to give 3-benzenesulphonyloxy-4-chloro-5-methylisoxasole, which was then reacted with N-bromosuccinimide to give 3-benzenesulphonyloxy-5-bromomethyl-4-chloroisoxazole. This was then treated by the procedure described in Preparation 10, to afford benzhydryl 4-chloro-3-hydroxyisoxazol-5-ylmethylthioacetate.

reactant | 4-Chloro-3-hydroxy-5-methylisoxazole | ClC=1C(=NOC1C)O | C4H4ClNO2
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-benzenesulphonyloxy-5-bromomethyl-4-chloroisoxazole | C1(=CC=CC=C1)S(=O)(=O)OC1=NOC(=C1Cl)CBr | C10H7BrClNO4S
